US08426447B2
Step 2: 2-Bromo-7-methoxy-9H-xanthen-9-one
Sulfuric acid (41 ml, 765 mmol) was added to 2-(4-bromophenoxy)-5-methoxybenzoic acid (3750 mg, 12 mmol) at RT. The reaction mixture was stirred at 60° C. for 60 min. LCMS showed complete reaction. The reaction mixture was cooled to rt and poured slowly over stirred mixture of ice and water (100 ml). The tan precipitate was filtered and washed with water (3×30 ml), twice with 30 ml of 0.5N NaOH, and with water again. The residue was recrystallized from 40 ml THF to give the title compound. MS m/z=307.2 [M+H]+. Calc'd for C14H9BrO3: 305.1.

reactant | Sulfuric acid | 765 mmol, 41 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-bromophenoxy)-5-methoxybenzoic acid | 12 mmol, 3750 mg | BrC1=CC=C(OC2=C(C(=O)O)C=C(C=C2)OC)C=C1 | C14H11BrO4
solvent | water | 100 ml | O | H2O
product | 2-Bromo-7-methoxy-9H-xanthen-9-one | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)OC)=O | C14H9BrO3
